US07598383B2
Step A: Preparation of 3-{5-[4-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl]-tetrazol-1-yl}-propionitrile:
PPh3 (83 mg, 0.32 mmol) was added to a stirred suspension of 4-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-cyano-ethyl)-amide (51 mg, 0.12 mmol) in MeCN (1.5 mL). DIAD (0.065 mL, 0.31 mmol) and TMSN3 (0.045 mL, 0.32) were added dropwise. After 22 hours, the reaction mixture was diluted with ethyl acetate and washed with water. The aqueous layer was extracted with ethyl acetate. The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure. Purification by flash column chromatography gave clean desired product (33 mg, 61%).

reactant | PPh3 | 0.32 mmol, 83 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 4-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-cyano-ethyl)-amide | 0.12 mmol, 51 mg | C(#N)CCNC(=O)C1=CN(C(C(=C1NC1=C(C=C(C=C1)Br)F)C)=O)C | C17H16BrFN4O2
reactant | DIAD | 0.31 mmol, 0.065 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | TMSN3 | 0.045 mL | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | MeCN | 1.5 mL | CC#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{5-[4-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl]-tetrazol-1-yl}-propionitrile | 33 mg, 61% | BrC1=CC(=C(C=C1)NC=1C(=CN(C(C1C)=O)C)C1=NN=NN1CCC#N)F | C17H15BrFN7O
